US04080275
A mixture of 10.0 grams (0.044 mole) of p-benzoylbenzoic acid, 100 milliliters of n-propanol and 0.25 milliliters of concentrated sulfuric acid was stirred under reflux for 5 hours. Aqueous sodium bicarbonate solution was then added. The organic layer was separated, dried over anhydrous magnesium sulfate and filtered. Volatiles were removed under vacuum with warming to provide 9.0 grams (76.3% yield) of n-propyl-p-benzoylbenzoate. The infrared spectrum revealed carbonyl absorption bands at 1670 and 1730 cm-1.

reactant | p-benzoylbenzoic acid | 0.044 mole, 10.0 grams | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
reactant | sulfuric acid | 0.25 milliliters | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | n-propanol | 100 milliliters | C(CC)O | C3H8O
product | n-propyl-p-benzoylbenzoate | 9.0 grams, 76.3% yield | C(CC)OC(C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C17H16O3
